US05804532
A solution of potassium carbonate (10.67 g) in water was added to a solution of ethyl 3,4-dimethyl-2-methylsulphenylbenzoate (21.19 g) in ethanol. The mixture was heated at reflux for 0.5 hours then partially evaporated. Water was added and the mixture was acidified to pH 1. The solid was filtered off and washed with water to give 3,4-dimethyl-2-methylsulphenylbenzoic acid (18.39 g) as a white solid, m.p. 117.8°-120.3° C.

reactant | potassium carbonate | 10.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3,4-dimethyl-2-methylsulphenylbenzoate | 21.19 g | CC=1C(=C(C(=O)OCC)C=CC1C)SC | C12H16O2S
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3,4-dimethyl-2-methylsulphenylbenzoic acid | 18.39 g | CC=1C(=C(C(=O)O)C=CC1C)SC | C10H12O2S
